US07485732B2
Step 1 tert-butyl 3-[1-(3,5-difluorophenyl)-2,2-dimethylpropyl]azetidine-1-carboxylate
A mixture of 720 mg (2.14 mmol) of tert-butyl 3-[1-(3,5-difluorophenyl)-2,2-dimethylpropylidene]azetidine-1-carboxylate and 600 mg of palladium on activated carbon (10%) in 6 mL of ethyl acetate and 5 mL of MeOH was pressurized to 50 psi with hydrogen gas at room temperature for 72 h. The solution was filtered through CELITE and the filtrate was concentrated. The residue was purified by silica gel chromatography with hexanes/ethyl acetate to afford the title compound as a white solid; 1H-NMR(CDCl3) δ 0.88 (s, 9H), 1.43 (s, 9H), 2.69 (d, J=11 Hz, 1H), 3.09-3.18 (m, 2H), 3.71 (t, J=8.2 Hz, 1H), 3.81(m, 1H), 4.12 (t, J=8.5 Hz, 1H), 6.49 (br, 1H), 6.69 (m, 2);

reactant | tert-butyl 3-[1-(3,5-difluorophenyl)-2,2-dimethylpropylidene]azetidine-1-carboxylate | 2.14 mmol, 720 mg | FC=1C=C(C=C(C1)F)C(C(C)(C)C)=C1CN(C1)C(=O)OC(C)(C)C | C19H25F2NO2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on activated carbon | 600 mg | [Pd] | Pd
solvent | ethyl acetate | 6 mL | C(C)(=O)OCC | C4H8O2
solvent | MeOH | 5 mL | CO | CH4O
product | tert-butyl 3-[1-(3,5-difluorophenyl)-2,2-dimethylpropyl]azetidine-1-carboxylate | FC=1C=C(C=C(C1)F)C(C(C)(C)C)C1CN(C1)C(=O)OC(C)(C)C | C19H27F2NO2
